US04237138
4-[2-(N-acetyl-4-piperidyloxy)ethoxy]benzamide (4.3 g.) in ethanol (60 ml.), water (30 ml.) and 2 N hydrochloric acid (10 ml.) was heated under reflux for 24 hours then the solvent evaporated in vacuo. The residue was taken up in water and extracted three times with chloroform, the aqueous phase was adjusted to pH 12 with sodium carbonate solution and extracted three times with chloroform. The combined chloroform extracts were discarded, the aqueous phase was saturated with sodium chloride and extracted with chloroform, the chloroform layer dried (Na2SO4), and the solvent evaporated in vacuo to give 4-[2-(4-piperidyloxy)ethoxy]benzamide (0.36 g.). The aqueous phase was concentrated in vacuo and the residual solid extracted with refluxing ethyl acetate (200 ml.).

reactant | 4-[2-(N-acetyl-4-piperidyloxy)ethoxy]benzamide | 4.3 g | C(C)(=O)N1CCC(CC1)OCCOC1=CC=C(C(=O)N)C=C1 | C16H22N2O4
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | hydrochloric acid | 2 N, 10 ml | Cl | ClH
product | 4-[2-(4-piperidyloxy)ethoxy]benzamide | 0.36 g | N1CCC(CC1)OCCOC1=CC=C(C(=O)N)C=C1 | C14H20N2O3
